US03931177
A mixture of finely ground 3-(4-hydroxybenzoyl)-N-methylpropionamide (20.7 g, 0.1 mole), epichlorohydrin (77 g, 0.83 mole), and piperidine (0.5 ml) was heated on a steam bath for 90 minutes. Evaporation under reduced pressure gave a viscous oil which was dissolved in dichloromethane (500 ml) and shaken with dilute sodium hydroxide (100 ml). The organic phase was washed with water, dried and evaporated to a slurry. Addition of ether gave the required 3-[4-(2,3-epoxypropoxy)benzoyl]-N-methyl-propionamide (21.36 g., 81%) which was recrystallised from chloroform/ether, m.p. 133°-140°C.

reactant | 3-(4-hydroxybenzoyl)-N-methylpropionamide | 0.1 mole, 20.7 g | OC1=CC=C(C(=O)CCC(=O)NC)C=C1 | C11H13NO3
reactant | epichlorohydrin | 0.83 mole, 77 g | C(Cl)C1CO1 | C3H5ClO
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-[4-(2,3-epoxypropoxy)benzoyl]-N-methyl-propionamide | 21.36 g, 81% | O1C(COC2=CC=C(C(=O)CCC(=O)NC)C=C2)C1 | C14H17NO4
